US04990521
A mixture of 12 parts of trans-N-[3-methoxy-1-(phenylmethyl)-4-piperidinyl]-3-(trifluoromethyl)benzamide and 200 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated in vacuo. The residue was solidified on scratching in 2,2'-oxybispropane. The precipitated product was filtered off and dissolved in 135 parts of methylbenzene and 105 parts of 1,1'-oxybisethane. The supernatant liquid was decanted, washed twice with a dilute ammonium hydroxide solution and the product was extracted with methylbenzene. The aqueous phase was saturated with potassium carbonate and the product was extracted with methylbenzene. The combined organic layers were dried, filtered and evaporated in vacuo, yielding 6.43 parts (71%) of trans-N-(3-methoxy-4-piperidinyl)-3-(trifluoromethyl)benzamide; mp. 100.3° C. (interm. 9).

reactant | trans-N-[3-methoxy-1-(phenylmethyl)-4-piperidinyl]-3-(trifluoromethyl)benzamide | CO[C@@H]1CN(CC[C@H]1NC(C1=CC(=CC=C1)C(F)(F)F)=O)CC1=CC=CC=C1 | C21H23F3N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | trans-N-(3-methoxy-4-piperidinyl)-3-(trifluoromethyl)benzamide | 71% | CO[C@@H]1CNCC[C@H]1NC(C1=CC(=CC=C1)C(F)(F)F)=O | C14H17F3N2O2
